US05231102
5,7-Dichloro-2,4-diethoxycarbonylquinoline (0.5 g) was dissolved in 60% aqueous methanol (70 ml) and sodium hydroxide (0.42 g, 5 molar equivalents) added. The reaction mixture was stirred at room temperature for 1 h then heated under reflux for 4 h and the methanol was removed by rotary evaporation. The residue was diluted to give a volume of 50 ml, acidified to pH 1 with concentrated hydrochloric acid, and extracted with diethyl ether (3×50 ml). The organic layers were combined, dried (Na2SO4), filtered and the solvent was removed by evaporation to give a residue which was purified by chromatography on silica gel with 10% methanol and 1% acetic acid in dichloromethane as eluent to give, as a colourless solid, 2-carboxy-5,7-dichloro-4-ethoxycarbonyl-quinoline (0.35 g, m.p. 152°-154° C.); δ (360 MHz, DMSO) 1.35 (3H, t, J=7.1 Hz, CH3CH2), 4.45 (2H, q, J=7.1 Hz, CH3CH2), 8.16 (1H, d, J=2.0 Hz, 6-H or 8-H), 8.18 (1H, s, 3-H), 8.34 (1H, d, J=2.0 Hz, 6-H or 8-H); m/e 313 (M+), 196 (100%, M-CO2H and CO2Et); Found: C, 49.55; H, 2.93; N, 4.44. C13H9Cl2NO4 requires C, 49.71; H, 2.89; N, 4.46%.

reactant | 5,7-Dichloro-2,4-diethoxycarbonylquinoline | 0.5 g | ClC1=C2C(=CC(=NC2=CC(=C1)Cl)C(=O)OCC)C(=O)OCC | C15H13Cl2NO4
reactant | sodium hydroxide | 5 molar, 0.42 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 2-carboxy-5,7-dichloro-4-ethoxycarbonyl-quinoline | 0.35 g | C(=O)(O)C1=NC2=CC(=CC(=C2C(=C1)C(=O)OCC)Cl)Cl | C13H9Cl2NO4
